US07601729B2
1,1-Dimethylethyl 2-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-5-(4-iodophenyl)-3-({[4-(methyloxy)phenyl]methyl}oxy)pentanoate
Boron trifluoride etherate (5.0 μL, 39 μmol) was added to a stirred solution of 1,1-dimethylethyl 2-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-3-hydroxy-5-(4-iodophenyl)pentanoate (5.14 g, 9.63 mmol) and 4-methoxybenzyl 2,2,2-trichloroethanimidoate (4.05 g, 14.4 mmol) in tetrahydrofuran (40 mL) at 0° C. under nitrogen. The reaction was allowed to warm to room temperature at which stirring was continued for 2 h. A further portion of boron trifluoride etherate (5.0 μL, 39 μmol) was then added and stirring was continued at room temperature for a further 2 h. Two further additions of boron trifluoride etherate (5.0 μL, 39 μmol) followed by stirring at room temperature for 2 h were carried out before evaporation of the solvent. The residue was chromatographed on silica gel (0% to 10% diethyl ether: cyclohexane) to give the title compound (4.14 g, 66%) as a yellow oil which was a mixture of diastereomers. LC/MS: 4.78 min; z/e 655, calcd (M+1) 655. 1H NMR (400 MHz: CDCl3): 7.55 (2H), 7.25 (2H), 6.90 (2H), 6.80 (2H), 4.55 (1H), 4.35 (1H), 3.80 (3H), 3.65(1H), 3.55 (1H), 2.95 (1H major), 2.80 (1H minor), 2.70 (1H), 2.55 (1H), 1.95-1.60 (4H), 1.45 (9H), 0.85 (9H), 0.5 (6H).

reactant | 1,1-dimethylethyl 2-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-3-hydroxy-5-(4-iodophenyl)pentanoate | 9.63 mmol, 5.14 g | CC(C)(C)[Si](OCCC(C(=O)OC(C)(C)C)C(CCC1=CC=C(C=C1)I)O)(C)C | C23H39IO4Si
reactant | 4-methoxybenzyl 2,2,2-trichloroethanimidoate | 14.4 mmol, 4.05 g | ClC(C(OCC1=CC=C(C=C1)OC)=N)(Cl)Cl | C10H10Cl3NO2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | Boron trifluoride etherate | 39 μmol, 5.0 μL | B(F)(F)F.CCOCC
catalyst | boron trifluoride etherate | 39 μmol, 5.0 μL | B(F)(F)F.CCOCC
catalyst | boron trifluoride etherate | 39 μmol, 5.0 μL | B(F)(F)F.CCOCC
product | 1,1-Dimethylethyl 2-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-5-(4-iodophenyl)-3-({[4-(methyloxy)phenyl]methyl}oxy)pentanoate | 4.14 g, 66% | CC(C)(C)[Si](OCCC(C(=O)OC(C)(C)C)C(CCC1=CC=C(C=C1)I)OCC1=CC=C(C=C1)OC)(C)C | C31H47IO5Si
